US06235731B1
To a solution of 10.07 g (87.43 mM) of 3-piperidinemethanol and 19.1 g (96.2 mM) of 1-bromo-3-phenylpropane in 150 ml of acetonitrile was added 18.1 g (131 mM) of potassium carbonate and the mixture was stirred at room temperature for one day. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure to provide crude 1-(3-phenylpropan-1-yl)piperidine-3-methanol. This crude product was not purified but used as it was in the next reaction. To a solution of this crude 1-(3-phenylpropan-1-yl)piperidine-3-methanol and 14.6 ml (105 mM) of triethylamine in 150 ml of tetrahydrofuran was added a solution of 11.0 g (96.2 mM) of methanesulfonyl chloride in 50 ml of tetrahydrofuran dropwise under ice-cooling and the mixture was further stirred at the prevailing temperature for 0.5 hour. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was dissolved in 500 ml of N,N-dimethylformamide, followed by addition of 17.8 g (96.2 mM) of potassium phthalimide, and the mixture was stirred at 100° C. overnight. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 to ethyl acetate) to provide the title compound.

reactant | 3-piperidinemethanol | 87.43 mM, 10.07 g | N1CC(CCC1)CO | C6H13NO
reactant | 1-bromo-3-phenylpropane | 96.2 mM, 19.1 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 131 mM, 18.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(3-phenylpropan-1-yl)piperidine-3-methanol | C1(=CC=CC=C1)CCCN1CC(CCC1)CO | C15H23NO
